US07977344B2
N2-Butyl-8-(methyloxy)-9-[3-(tetrahydro-2H-pyran-2-yl)propyl]-9H-Purine-2,6-diamine
Prepared similarly to Intermediate 216 from N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate and 2-(3-bromopropyl)tetrahydro-2H-pyran.

reactant | N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(N=C2N1)OC)N
reactant | 2-(3-bromopropyl)tetrahydro-2H-pyran | BrCCCC1OCCCC1 | C8H15BrO
product | N2-Butyl-8-(methyloxy)-9-[3-(tetrahydro-2H-pyran-2-yl)propyl]-9H-Purine-2,6-diamine | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCC1OCCCC1)OC)N | C18H30N6O2
